* /home/vsduser/downloads/esim-2.3/library/subcircuitlibrary/cd4042b/cd4042b.cir

.include Quad_D_FF.sub
.include TG_D_Latch_ctrl.sub
*.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt

* s c m o d e
x2 net-_u1-pad3_ net-_x1-pad5_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad8_ net-_u1-pad7_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ Quad_D_FF
x1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad7_ net-_u1-pad8_ net-_x1-pad5_ TG_D_Latch_ctrl
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
