* c:\fossee\esim\library\subcircuitlibrary\cd4085b\cd4085b.cir

.include NMOS-5um.lib
.include PMOS-5um.lib
m3 net-_m11-pad1_ /a1 /vdd /vdd mos_p W=100u L=100u M=1
m11 net-_m11-pad1_ /b1 /vdd /vdd mos_p W=100u L=100u M=1
m12 net-_m11-pad1_ /a1 net-_m12-pad3_ /vss mos_n W=100u L=100u M=1
m13 net-_m12-pad3_ /b1 /vss /vss mos_n W=100u L=100u M=1
m4 net-_m14-pad1_ /c1 /vdd /vdd mos_p W=100u L=100u M=1
m14 net-_m14-pad1_ /d1 /vdd /vdd mos_p W=100u L=100u M=1
m15 net-_m14-pad1_ /c1 net-_m15-pad3_ /vss mos_n W=100u L=100u M=1
m16 net-_m15-pad3_ /d1 /vss /vss mos_n W=100u L=100u M=1
m18 net-_m18-pad1_ net-_m11-pad1_ /vdd /vdd mos_p W=100u L=100u M=1
m22 net-_m18-pad1_ net-_m14-pad1_ /vdd /vdd mos_p W=100u L=100u M=1
m23 net-_m18-pad1_ net-_m11-pad1_ net-_m23-pad3_ /vss mos_n W=100u L=100u M=1
m24 net-_m23-pad3_ net-_m14-pad1_ /vss /vss mos_n W=100u L=100u M=1
m31 net-_m31-pad1_ /inhibit1 /vdd /vdd mos_p W=100u L=100u M=1
m32 net-_m26-pad1_ net-_m18-pad1_ net-_m31-pad1_ /vdd mos_p W=100u L=100u M=1
m30 net-_m26-pad1_ net-_m18-pad1_ /vss /vss mos_n W=100u L=100u M=1
m26 net-_m26-pad1_ /inhibit1 /vss /vss mos_n W=100u L=100u M=1
m35 net-_m35-pad1_ net-_m26-pad1_ /vss /vss mos_n W=100u L=100u M=1
m36 net-_m35-pad1_ net-_m26-pad1_ /vdd /vdd mos_p W=100u L=100u M=1
m39 /e1 net-_m35-pad1_ /vss /vss mos_n W=100u L=100u M=1
m40 /e1 net-_m35-pad1_ /vdd /vdd mos_p W=100u L=100u M=1
* u1  /a1 /b1 /e1 /e2 /a2 /b2 /vss /c2 /d2 /inhibit1 /inhibit2 /c1 /d1 /vdd port
m1 net-_m1-pad1_ /a2 /vdd /vdd mos_p W=100u L=100u M=1
m5 net-_m1-pad1_ /b2 /vdd /vdd mos_p W=100u L=100u M=1
m6 net-_m1-pad1_ /a2 net-_m6-pad3_ /vss mos_n W=100u L=100u M=1
m7 net-_m6-pad3_ /b2 /vss /vss mos_n W=100u L=100u M=1
m2 net-_m19-pad2_ /c2 /vdd /vdd mos_p W=100u L=100u M=1
m8 net-_m19-pad2_ /d2 /vdd /vdd mos_p W=100u L=100u M=1
m9 net-_m19-pad2_ /c2 net-_m10-pad1_ /vss mos_n W=100u L=100u M=1
m10 net-_m10-pad1_ /d2 /vss /vss mos_n W=100u L=100u M=1
m17 net-_m17-pad1_ net-_m1-pad1_ /vdd /vdd mos_p W=100u L=100u M=1
m19 net-_m17-pad1_ net-_m19-pad2_ /vdd /vdd mos_p W=100u L=100u M=1
m20 net-_m17-pad1_ net-_m1-pad1_ net-_m20-pad3_ /vss mos_n W=100u L=100u M=1
m21 net-_m20-pad3_ net-_m19-pad2_ /vss /vss mos_n W=100u L=100u M=1
m28 net-_m28-pad1_ /inhibit2 /vdd /vdd mos_p W=100u L=100u M=1
m29 net-_m25-pad1_ net-_m17-pad1_ net-_m28-pad1_ /vdd mos_p W=100u L=100u M=1
m27 net-_m25-pad1_ net-_m17-pad1_ /vss /vss mos_n W=100u L=100u M=1
m25 net-_m25-pad1_ /inhibit2 /vss /vss mos_n W=100u L=100u M=1
m33 net-_m33-pad1_ net-_m25-pad1_ /vss /vss mos_n W=100u L=100u M=1
m34 net-_m33-pad1_ net-_m25-pad1_ /vdd /vdd mos_p W=100u L=100u M=1
m37 /e2 net-_m33-pad1_ /vss /vss mos_n W=100u L=100u M=1
m38 /e2 net-_m33-pad1_ /vdd /vdd mos_p W=100u L=100u M=1
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
