* Subcircuit CD40106B
.subckt CD40106B net-_m1-pad2_ net-_m10-pad2_ gnd net-_m1-pad1_ net-_m13-pad2_ net-_m17-pad2_ net-_m10-pad1_ net-_m13-pad1_ net-_m25-pad2_ net-_m17-pad1_ vdd net-_m31-pad2_ net-_m25-pad1_ net-_m31-pad1_ 
* c:\fossee\esim\library\subcircuitlibrary\cd40106b\cd40106b.cir
.include NMOS-180nm.lib
.include PMOS-180nm.lib
m4 net-_m1-pad1_ net-_m1-pad2_ net-_m3-pad1_ vdd CMOSP W=100u L=100u M=1
m3 net-_m3-pad1_ net-_m1-pad2_ vdd vdd CMOSP W=100u L=100u M=1
m5 gnd net-_m1-pad1_ net-_m3-pad1_ vdd CMOSP W=100u L=100u M=1
m1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ gnd CMOSN W=100u L=100u M=1
m2 net-_m1-pad3_ net-_m1-pad2_ gnd gnd CMOSN W=100u L=100u M=1
m6 vdd net-_m1-pad1_ net-_m1-pad3_ gnd CMOSN W=100u L=100u M=1
m16 net-_m13-pad1_ net-_m13-pad2_ net-_m15-pad1_ vdd CMOSP W=100u L=100u M=1
m15 net-_m15-pad1_ net-_m13-pad2_ vdd vdd CMOSP W=100u L=100u M=1
m21 gnd net-_m13-pad1_ net-_m15-pad1_ vdd CMOSP W=100u L=100u M=1
m13 net-_m13-pad1_ net-_m13-pad2_ net-_m13-pad3_ gnd CMOSN W=100u L=100u M=1
m14 net-_m13-pad3_ net-_m13-pad2_ gnd gnd CMOSN W=100u L=100u M=1
m22 vdd net-_m13-pad1_ net-_m13-pad3_ gnd CMOSN W=100u L=100u M=1
m28 net-_m25-pad1_ net-_m25-pad2_ net-_m27-pad1_ vdd CMOSP W=100u L=100u M=1
m27 net-_m27-pad1_ net-_m25-pad2_ vdd vdd CMOSP W=100u L=100u M=1
m29 gnd net-_m25-pad1_ net-_m27-pad1_ vdd CMOSP W=100u L=100u M=1
m25 net-_m25-pad1_ net-_m25-pad2_ net-_m25-pad3_ gnd CMOSN W=100u L=100u M=1
m26 net-_m25-pad3_ net-_m25-pad2_ gnd gnd CMOSN W=100u L=100u M=1
m30 vdd net-_m25-pad1_ net-_m25-pad3_ gnd CMOSN W=100u L=100u M=1
m34 net-_m31-pad1_ net-_m31-pad2_ net-_m33-pad1_ vdd CMOSP W=100u L=100u M=1
m33 net-_m33-pad1_ net-_m31-pad2_ vdd vdd CMOSP W=100u L=100u M=1
m35 gnd net-_m31-pad1_ net-_m33-pad1_ vdd CMOSP W=100u L=100u M=1
m31 net-_m31-pad1_ net-_m31-pad2_ net-_m31-pad3_ gnd CMOSN W=100u L=100u M=1
m32 net-_m31-pad3_ net-_m31-pad2_ gnd gnd CMOSN W=100u L=100u M=1
m36 vdd net-_m31-pad1_ net-_m31-pad3_ gnd CMOSN W=100u L=100u M=1
m10 net-_m10-pad1_ net-_m10-pad2_ net-_m10-pad3_ vdd CMOSP W=100u L=100u M=1
m9 net-_m10-pad3_ net-_m10-pad2_ vdd vdd CMOSP W=100u L=100u M=1
m11 gnd net-_m10-pad1_ net-_m10-pad3_ vdd CMOSP W=100u L=100u M=1
m7 net-_m10-pad1_ net-_m10-pad2_ net-_m12-pad3_ gnd CMOSN W=100u L=100u M=1
m8 net-_m12-pad3_ net-_m10-pad2_ gnd gnd CMOSN W=100u L=100u M=1
m12 vdd net-_m10-pad1_ net-_m12-pad3_ gnd CMOSN W=100u L=100u M=1
m20 net-_m17-pad1_ net-_m17-pad2_ net-_m19-pad1_ vdd CMOSP W=100u L=100u M=1
m19 net-_m19-pad1_ net-_m17-pad2_ vdd vdd CMOSP W=100u L=100u M=1
m23 gnd net-_m17-pad1_ net-_m19-pad1_ vdd CMOSP W=100u L=100u M=1
m17 net-_m17-pad1_ net-_m17-pad2_ net-_m17-pad3_ gnd CMOSN W=100u L=100u M=1
m18 net-_m17-pad3_ net-_m17-pad2_ gnd gnd CMOSN W=100u L=100u M=1
m24 vdd net-_m17-pad1_ net-_m17-pad3_ gnd CMOSN W=100u L=100u M=1
* Control Statements

.ends CD40106B