* /home/vsduser/downloads/esim-2.3/library/subcircuitlibrary/quad_d_ff/quad_d_ff.cir

.include D_FF.sub
.include CMOS_INVTR.sub
*.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt

x1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad7_ net-_u1-pad6_ net-_u1-pad8_ D_FF
x2 net-_u1-pad3_ net-_u1-pad2_ net-_u1-pad7_ net-_u1-pad6_ net-_u1-pad9_ D_FF
x3 net-_u1-pad4_ net-_u1-pad2_ net-_u1-pad7_ net-_u1-pad6_ net-_u1-pad10_ D_FF
x4 net-_u1-pad5_ net-_u1-pad2_ net-_u1-pad7_ net-_u1-pad6_ net-_u1-pad11_ D_FF
x5 net-_u1-pad8_ net-_u1-pad7_ net-_u1-pad6_ net-_u1-pad12_ CMOS_INVTR
x6 net-_u1-pad9_ net-_u1-pad7_ net-_u1-pad6_ net-_u1-pad13_ CMOS_INVTR
x7 net-_u1-pad10_ net-_u1-pad7_ net-_u1-pad6_ net-_u1-pad14_ CMOS_INVTR
x8 net-_u1-pad11_ net-_u1-pad7_ net-_u1-pad6_ net-_u1-pad15_ CMOS_INVTR
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ port
* s c m o d e
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
