* /home/vsduser/downloads/esim-2.3/library/subcircuitlibrary/tg_d_latch/tg_d_latch.cir

.include CMOS_INVTR.sub
*.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt

xsc1 /d net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad4_ sky130_fd_pr__pfet_01v8 w=3 l=0.15
xsc2 /d /clk net-_sc1-pad3_ net-_sc2-pad4_ sky130_fd_pr__nfet_01v8 w=1 l=0.15
xsc4 net-_sc3-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad4_ sky130_fd_pr__pfet_01v8 w=3 l=0.15
* u1  /d /clk net-_sc2-pad4_ net-_sc1-pad4_ net-_u1-pad5_ net-_sc1-pad3_ port
* s c m o d e
xsc3 net-_sc3-pad1_ /clk net-_sc1-pad3_ net-_sc2-pad4_ sky130_fd_pr__nfet_01v8 w=1 l=0.15
x1 /clk net-_sc1-pad4_ net-_sc2-pad4_ net-_sc1-pad2_ CMOS_INVTR
x2 net-_sc1-pad3_ net-_sc1-pad4_ net-_sc2-pad4_ net-_u1-pad5_ CMOS_INVTR
x3 net-_u1-pad5_ net-_sc1-pad4_ net-_sc2-pad4_ net-_sc3-pad1_ CMOS_INVTR
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
