* /home/vsduser/Downloads/eSim-2.3/library/SubcircuitLibrary/TG_D_Latch_ctrl/TG_D_Latch_ctrl.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Mon Jun 23 11:40:14 2025

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U1  /clock /polarity /Vdd /Gnd /Out PORT		
scmode1  SKY130mode		
SC5  Net-_SC10-Pad1_ Net-_SC1-Pad1_ /Vdd /Vdd sky130_fd_pr__pfet_01v8		
SC10  Net-_SC10-Pad1_ /clock /Vdd /Vdd sky130_fd_pr__pfet_01v8		
SC1  Net-_SC1-Pad1_ /polarity /Vdd /Vdd sky130_fd_pr__pfet_01v8		
SC13  Net-_SC13-Pad1_ Net-_SC10-Pad1_ /Vdd /Vdd sky130_fd_pr__pfet_01v8		
SC2  Net-_SC1-Pad1_ /polarity /Gnd /Gnd sky130_fd_pr__nfet_01v8		
SC7  Net-_SC10-Pad1_ Net-_SC1-Pad1_ Net-_SC7-Pad3_ Net-_SC7-Pad3_ sky130_fd_pr__nfet_01v8		
SC9  Net-_SC7-Pad3_ /clock /Gnd /Gnd sky130_fd_pr__nfet_01v8		
SC14  Net-_SC13-Pad1_ Net-_SC10-Pad1_ /Gnd /Gnd sky130_fd_pr__nfet_01v8		
SC6  Net-_SC12-Pad1_ Net-_SC3-Pad1_ /Vdd /Vdd sky130_fd_pr__pfet_01v8		
SC12  Net-_SC12-Pad1_ /polarity /Vdd /Vdd sky130_fd_pr__pfet_01v8		
SC3  Net-_SC3-Pad1_ /clock /Vdd /Vdd sky130_fd_pr__pfet_01v8		
SC15  Net-_SC15-Pad1_ Net-_SC12-Pad1_ /Vdd /Vdd sky130_fd_pr__pfet_01v8		
SC4  Net-_SC3-Pad1_ /clock /Gnd /Gnd sky130_fd_pr__nfet_01v8		
SC8  Net-_SC12-Pad1_ Net-_SC3-Pad1_ Net-_SC11-Pad1_ Net-_SC11-Pad1_ sky130_fd_pr__nfet_01v8		
SC11  Net-_SC11-Pad1_ /polarity /Gnd /Gnd sky130_fd_pr__nfet_01v8		
SC16  Net-_SC15-Pad1_ Net-_SC12-Pad1_ /Gnd /Gnd sky130_fd_pr__nfet_01v8		
SC18  Net-_SC18-Pad1_ Net-_SC13-Pad1_ /Vdd /Vdd sky130_fd_pr__pfet_01v8		
SC19  Net-_SC17-Pad1_ Net-_SC15-Pad1_ Net-_SC18-Pad1_ Net-_SC18-Pad1_ sky130_fd_pr__pfet_01v8		
SC21  /Out Net-_SC17-Pad1_ /Vdd /Vdd sky130_fd_pr__pfet_01v8		
SC17  Net-_SC17-Pad1_ Net-_SC13-Pad1_ /Gnd /Gnd sky130_fd_pr__nfet_01v8		
SC20  Net-_SC17-Pad1_ Net-_SC15-Pad1_ /Gnd /Gnd sky130_fd_pr__nfet_01v8		
SC22  /Out Net-_SC17-Pad1_ /Gnd /Gnd sky130_fd_pr__nfet_01v8		

.end
